US06331640B1
Methanol (100 mL) and 10% palladium on carbon (2 g) were charged to a 250 mL Parr bottle followed by 3-cyanophenol (19.0 g, 0.1595 mol) and concentrated HCl (16.66 mL, 0.2 mol). The mixture was hydrogenated at room temperature and 50 psi until the uptake of hydrogen stopped (about 10 h). The reaction was filtered through a bed of Celite and the filter cake was washed with methanol (3×25 mL). The combined filtrates were evaporated under reduced pressure. Remaining volatiles were removed by evaporating the residue twice from 50 mL portions of absolute ethanol. The crude amine hydrochloride, essentially free of residual HCl, was dissolved with warming in a minimum amount of absolute ethanol (80 mL) and the stirred solution was diluted with anhydrous diethyl ether (500 mL). The mixture was stirred in an ice bath for 1 h then the colorless crystalline product was filtered off, washed with anhydrous diethyl ether (3×50 mL) and dried in vacuo to furnish (3-hydroxyphenyl)methylamine hydrochloride salt (20.6 g, 80.9%), mp 146-148° C.

reactant | 3-cyanophenol | 0.1595 mol, 19.0 g | C(#N)C=1C=C(C=CC1)O | C7H5NO
reactant | HCl | 0.2 mol, 16.66 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 2 g | [Pd] | Pd
solvent | Methanol | 100 mL | CO | CH4O
product | (3-hydroxyphenyl)methylamine hydrochloride salt | 20.6 g, 80.9% | Cl.OC=1C=C(C=CC1)CN | InChI=1S/C7H9NO.ClH/c8-5-6-2-1-3-7(9)4-6;/h1-4,9H,5,8H2;1H
